US06605624B1
Step 1: Methyl 5-(aminothioxomethy)-4-(Cyclopropyl-methyl)-2-(difluoromethyl)-6-(trifluoromethyl)-3-pyridinecarboxylate
Methyl 5-chlorocarbonyl-4-(cyclopropylmethyl)-2-(difluoromethyl)-6-(trifluoromethyl)-3-pyridine-carboxylate (example B3 of U.S. Pat. No. 5,156,670) was converted to methyl 4-(cyclopropylmethyl)-5-cyano-2-(difluoromethyl)-6-(trifluoromethyl)-3-pyridine-carboxylate by the procedure similar to example 88 and 92 of U.S. Pat. No. 4,692,184. A solution of 20 g (60 mmol) of this cyano compound and 0.62 g (6 mmol) of diethylamine in 60 ml of DMF was heated to 50° C. Hydrogen sulfide gas was introduced into this solution. When absorption of hydrogen sulfide was complete the reaction mixture was stirred at 50° C. for 1 h and poured into water and extracted with ether. The ether extract was washed with brine, dried (MgSO4), and concentrated in vacuo. The residue was kugelrohr distilled to give 17.7 g (80% yield) of yellow oil.

reactant | Methyl 5-chlorocarbonyl-4-(cyclopropylmethyl)-2-(difluoromethyl)-6-(trifluoromethyl)-3-pyridine-carboxylate | ClC(=O)C=1C(=C(C(=NC1C(F)(F)F)C(F)F)C(=O)OC)CC1CC1 | C14H11ClF5NO3
reactant | methyl 4-(cyclopropylmethyl)-5-cyano-2-(difluoromethyl)-6-(trifluoromethyl)-3-pyridine-carboxylate | C1(CC1)CC1=C(C(=NC(=C1C#N)C(F)(F)F)C(F)F)C(=O)OC | C14H11F5N2O2
reactant | diethylamine | 6 mmol, 0.62 g | C(C)NCC | C4H11N
reactant | Hydrogen sulfide | S | H2S
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | Methyl 5-(aminothioxomethy)-4-(Cyclopropyl-methyl)-2-(difluoromethyl)-6-(trifluoromethyl)-3-pyridinecarboxylate | 17.7 g, 80% yield | NC(C=1C(=C(C(=NC1C(F)(F)F)C(F)F)C(=O)OC)CC1CC1)=S | C14H13F5N2O2S
